US05814631
Synthesis of 3-(4-allyloxycarbonylbenzenesulfonyl)-7-chloro-2,4(1H,3H)-quinazolinedione (Compound 5)
1.10 g (4.15 mmol) of 4-allyloxycarbonylbenzene-sulfonylisocyanate and 712 mg (4.15 mmol) of 2-amino-4-chlorobenzoic acid were treated in the same way as in Example 1 to obtain 657 mg of the above-identified compound (yield 37.6%). Properties: colorless crystal, Melting point: 130°-132° C., PMR (δppm, DMSO-d6): 4.59 (2H,d), 5.18 (1H,d), 5.27 (1H,d), 5.87-5.94 (1H,m), 7.13 (1H,s), 7.22 (1H,d), 7.62-7.70 (2H,m), 7.86 (1H,d), 8.09 (2H,d), 11.63 (1H,br).

reactant | 4-allyloxycarbonylbenzene-sulfonylisocyanate | 4.15 mmol, 1.10 g | C(C=C)OC(=O)C1=CC=C(C=C1)S(=O)(=O)N=C=O | C11H9NO5S
reactant | 2-amino-4-chlorobenzoic acid | 4.15 mmol, 712 mg | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
product | 3-(4-allyloxycarbonylbenzenesulfonyl)-7-chloro-2,4(1H,3H)-quinazolinedione | 657 mg, yield 37.6% | C(C=C)OC(=O)C1=CC=C(C=C1)S(=O)(=O)N1C(NC2=CC(=CC=C2C1=O)Cl)=O | C18H13ClN2O6S
